US07566735B2
Ethyl {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetate
A mixture of ethyl-4-bromophenylacetate (875 mg, 3.60 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (570 mg, 3.00 mmol), potassium carbonate (842 mg, 6.10 mmol), copper (I) iodide (5 mol %, 29 mg, 0.15 mmol), and (1R,2R)-N,N′-dimethyl-1,2-cyclohexanediamine (20 mol %, 85 mg, 0.60 mmol) in toluene (2 ml) was stirred under an atmosphere of argon at 130° C. in a microwave reactor for 1 h. Further copper (I) iodide (10 mg, 0.05 mmol), and (1R,2R)-N,N′-dimethyl-1,2-cyclohexanediamine (30 mg, 0.21 mmol) was added and heating continued at 130° C. for a total of 4 h. The reaction mix was cooled and added to a 20 g pre-packed silica column and eluted with 0-20% ethyl acetate in petroleum ether to give the title compound as a brown oil (0.92 g, 87%).

reactant | ethyl-4-bromophenylacetate | 3.60 mmol, 875 mg | C(C)OC(CC1=CC=C(C=C1)Br)=O | C10H11BrO2
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 3.00 mmol, 570 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | potassium carbonate | 6.10 mmol, 842 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (1R,2R)-N,N′-dimethyl-1,2-cyclohexanediamine | 0.60 mmol, 85 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodide | 0.15 mmol, 29 mg | [Cu]I
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
catalyst | (1R,2R)-N,N′-dimethyl-1,2-cyclohexanediamine | 0.21 mmol, 30 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
product | Ethyl {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetate | 0.92 g, 87% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)OCC)(F)F | C18H19F3N2O2
